US09102591B2
2,4-dichloro-N-(2-phenyl-2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)benzamide
From 2,4-dichlorobenzoic acid and 2-phenyl-2-(6-(trifluoromethyl)pyridin-3-yl)ethanamine. LCMS (MH+): m/z=439.0, tR (minutes, Method E)=0.81

reactant | 2,4-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
reactant | 2-phenyl-2-(6-(trifluoromethyl)pyridin-3-yl)ethanamine | C1(=CC=CC=C1)C(CN)C=1C=NC(=CC1)C(F)(F)F | C14H13F3N2
product | 2,4-dichloro-N-(2-phenyl-2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(C=2C=NC(=CC2)C(F)(F)F)C2=CC=CC=C2)C=CC(=C1)Cl | C21H15Cl2F3N2O
